Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cough, Anorexia 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ year old woman with HCV/EtOH
cirrhosis (decompensated by ascites, hepatic encephalopathy,
esophageal varices), severe pulmonary hypertension, chronic left
main PA thrombus on Coumadin, opiate use disorder on methadone
and active smoking who presents as a transfer from ___ with dyspnea and hypoxia. 

Ms. ___ reports that for the past week she's had a
constellation of symptoms including dizziness, inability to walk
well, coughing up yellow phlegm and anorexia. She also endorses
hallucinations that manifest as her realizing she's talking to
somebody in the room who is not actually there. She denies night
sweats, nausea, vomiting, diarrhea, rash, visual changes, chest
pain, leg swelling. She has not had sick contacts, medication
changes, or recent travel. She presented to ___ 
where
she was give 8mg decadron and azthromycin. 

EMERGENCY DEPARTMENT COURSE
=========================== 
Initial Vitals:  T98.0, HR 93, BP 93/72, RR 22, O2 99% NRB

Exam notable: 
- General: Patient lying in bed, pleasant, no apparent distress,
awake aware and oriented -3
- HEENT: Atraumatic, Moist mucous membranes, pupils equal and
reactive bilaterally, +JVD
- Cardiovascular: Regular rate and rhythm no murmurs rubs or
gallops
- Lungs: Rales bilaterally
- Abdomen: Soft nontender nondistended, no rebound or guarding
- Extremities: 2+ pulses bilaterally, no swelling
- Neuro: ___ strength bilaterally in UE and ___. SLTIT.

Labs notable for:
- INR 5.0
- ___ ___
- VBG: 7.28/58
- Cr 2.3/BUN44 
- Mg 1.4
- Hb 10.3
- PLT 93 
- Lactate 2.3

Imaging: 
- Outside hospital CXR reviewed in PACS  

Consults:  
- None

Interventions:  
- Vancomycin 1000mg
- Piperacillin-Tazobactam 4.5g
- Magnesium 4mg 
 
Past Medical History:
- Chronic pulmonary embolism on warfarin
- Pulmonary hypertension 
- Opiate use disorder (heroin, percoset) on methadone
- EtOH and HCV Cirrhosis (previously decompensated by ascites,
esophageal varices and hepatic encephalopathy)
- Depression 
- Cholecystectomy
 
Social History:
___
Family History:
Mother: Died of blood clot in her ___
Father: Died of stroke at an older age 
Brothers x2: Drug use.  
 
Physical Exam:
==============================
ADMISSION PHYSICAL EXAMINATION
============================== 
VS: T98.1, HR 93, BP 96/52, RR15, O2 92% on 6L N/C
GEN: Tired appearing, intermittently dozing off during interview
EYES: Pupils equal and reactive, 
HENNT: Somewhat dry mucous membranes
CV: S1/S2 regular, ___ systolic murmur at the LUSB. EJ prominent
with respirophasic variation, JVP approximately 12 with 
elevation
to 15 with RUQ palpation 
RESP: No use of accessory muscles, no evidence of respiratory
distress, rales halfway up both lung fields, notably no rhonchi
or wheezing, good air movement
GI: Mildly distended, no fluid wave, small reducible umbilical
hernia, diffuse mild tenderness to palpation
EXT: Warm extremities, no lower extremity edema
SKIN: Palmar erythema, some spider angiomata
NEURO: Oriented to person, place, year, month, CNII-XII normal,
___ strength in lower extremities. A single beat of asterixis
when I hyperextend her wrist. 

DISCHARGE EXAM:
VITALS: ___ 0724 Temp: 98.5 PO BP: 91/50 HR: 90 RR: 18 O2 
sat: 100% O2 delivery: RA 
GENERAL: Alert, NAD, very thin
EYES: Anicteric, pupils equally round
ENT: MMM, OP clear
CV: NR/RR, no murmur, loud S2.
RESP: CTAB, no wheezes, crackles, or rhonchi
GI: Abdomen soft, somewhat distended, non-tender to palpation. 
Bowel sounds present.  Umbilical hernia present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: appropriate affect
 
Pertinent Results:
ADMISSION LABS
___ 07:14PM BLOOD WBC-7.1 RBC-3.69* Hgb-10.3* Hct-33.5* 
MCV-91 MCH-27.9 MCHC-30.7* RDW-17.1* RDWSD-56.9* Plt Ct-93*
___ 07:14PM BLOOD Glucose-101* UreaN-44* Creat-2.3* Na-139 
K-3.9 Cl-101 HCO3-24 AnGap-14
___ 07:14PM BLOOD Mg-1.4*
___ 07:20PM BLOOD ___ pO2-36* pCO2-58* pH-7.28* 
calTCO2-28 Base XS--1

NOTABLE LABS
___ 07:20PM BLOOD Lactate-2.3*
___ 10:34AM BLOOD Lactate-2.1*
___ 07:20PM BLOOD ___ pO2-36* pCO2-58* pH-7.28* 
calTCO2-28 Base XS--1
___ 10:34AM BLOOD ___ pO2-35* pCO2-44 pH-7.36 
calTCO2-26 Base XS-0
___ 10:13AM BLOOD HCV VL-NOT DETECT
___ 10:13AM BLOOD HCV Ab-POS*
___ 10:13AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 10:13AM BLOOD HIV Ab-NEG
___ 07:14PM BLOOD CK-MB-3 ___
___ 07:14PM BLOOD cTropnT-0.02*
___ 07:14PM BLOOD ___ PTT-36.2 ___
___ 03:30AM BLOOD ___ PTT-38.4* ___
___ 07:30AM BLOOD ___

IMAGING & MICROBIOLOGY
__________________________________________________________
___ 11:57 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

   Respiratory Viral Culture (Preliminary): 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 
__________________________________________________________
___ 7:14 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

Peritoneal fluid culture (___):
 GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count, if 
applicable. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

PARACENTESIS (___):
IMPRESSION: 
1. Technically successful ultrasound guided diagnostic 
paracentesis. 
2. 20 cc of fluid were removed and sent for requested analysis. 

TTE ___
CONCLUSION: The left atrial volume index is normal. The 
estimated right atrial pressure is ___ mmHg. There
is normal left ventricular wall thickness with a normal cavity 
size. There is normal regional and global left
ventricular systolic function. Quantitative biplane left 
ventricular ejection fraction is 63 %. Left
ventricular cardiac index is high (>4.0 L/min/m2). There is no 
resting left ventricular outflow tract gradient.
Tissue Doppler suggests a normal left ventricular filling 
pressure (PCWP less than 12mmHg). Mildly dilated
right ventricular cavity with normal free wall motion. Tricuspid 
annular plane systolic excursion (TAPSE) is
normal. The aortic sinus diameter is normal for gender with 
mildly dilated ascending aorta. The aortic arch is
mildly dilated. There is no evidence for an aortic arch 
coarctation. The aortic valve leaflets (3) appear
structurally normal. There is no aortic valve stenosis. There is 
no aortic regurgitation. The mitral valve leaflets
are elongated with mild bileaflet systolic prolapse. There is 
trivial mitral regurgitation. The pulmonic valve
leaflets are normal. The tricuspid valve leaflets appear 
structurally normal. There is mild [1+] tricuspid
regurgitation. There is moderate pulmonary artery systolic 
hypertension. There is no pericardial effusion.
IMPRESSION: Normal left ventricular wall thickness and 
biventricular cavity sizes and regional/
global systolic function. Moderate pulmonary artery systolic 
hypertension. Right ventricular cavity
dilation. Posterior mitral leaflet elongation with mild 
bileaflet systolic prolapse, but no pathologic
regurgitation. Dilated thoracic aora.
Compared with the prior TTE (images not available for review) of 
___, the estimated PA systolic
pressure is now lower.
CLINICAL IMPLICATIONS: The patient has a mildly dilated 
ascending aorta. Based on ___ ACCF/AHA
Thoracic Aortic Guidelines, a follow-up echocardiogram is 
suggested in ___ years.

CXR ___re hyperexpanded and there is prominence of the 
pulmonary
arteries consistent with known pulmonary arterial hypertension.  
Streaky
densities at the lung apices are stable and likely represent 
parenchymal
scarring as opposed to infiltrates.  There are no large pleural 
effusions or pneumothoraces.

DISCHARGE LABS:

___ 06:40AM BLOOD WBC-12.4* RBC-4.45 Hgb-12.4 Hct-39.0 
MCV-88 MCH-27.9 MCHC-31.8* RDW-17.1* RDWSD-55.1* Plt ___
___ 06:40AM BLOOD ___
___ 06:40AM BLOOD Glucose-79 UreaN-54* Creat-1.8* Na-137 
K-4.3 Cl-92* HCO3-30 AnGap-15
___ 06:40AM BLOOD Calcium-9.2 Phos-4.3 Mg-1.6
 
Brief Hospital Course:
SUMMARY:
Ms. ___ is a ___ year old woman with HCV/EtOH 
cirrhosis (decompensated by ascites, hepatic encephalopathy, 
esophageal varices), severe pulmonary hypertension, chronic left
main PA thrombus on Coumadin, opiate use disorder on methadone 
and active smoking who presents as a transfer from ___ 
___ with dyspnea and hypoxia thought to be secondary to 
COPD exacerbation triggered by possible viral URI. 
  
ACUTE ISSUES  
===============  
#Hypoxemic and hypercarbic respiratory failure.
PFTs in ___ showed moderately severe obstructive 
ventilatory defect, a severe decrease in exercise capacity, and 
a gas exchange defect and/or hypoventilation. Given this poor 
reserve,
she is high risk for respiratory failure.  Presented with acute 
shortness of breath and need for non-rebreather in the ED, 
quickly weaned to 4 L NC once admitted to the MICU.  BNP >17k 
and never previously higher than 3k, but CXR showed 
hyperinflated lungs without significant pulmonary edema and she 
is not total body volume overloaded. No evidence of pneumonia. 
Possibly consistent with viral respiratory infection or COPD 
exacerbation. PE much less likely given supratherapeutic INR.  
Continued on prednisone 40mg + azithromycin for 5 days total. 
Oxygen was unable to be weaned initially so pulmonary was 
consulted who recommended increasing torsemide to 20 mg PO BID 
for short term increased diuresis. TTE showed improved pressures 
from prior. Her oxygen saturations were adequate on discharge so 
she did not need to be discharged with home O2.

___ on CKD.
CKD attributed to NSAID use and cardiorenal syndrome along with 
possible chronic interstitial process. Recent baseline 1.9-2.1. 
Presented with Cr 2.3 and BUN elevated above normal. Given
self-reported anorexia for several days and dry mucous 
membranes, likely pre-renal. Encouraged oral hydration as high 
risk of overloading right heart with IV fluids. Cr returned to 
baseline by hospital day 2. 

#Hypomagnesemia
Repleted in ED. Resolved. 

CHRONIC ISSUES  
===============  
#Pulmonary Hypertension
Last seen in pulmonary ___ clinic in ___ 
showed RA 17, PA 89/43 (60), PCWP 35. Previously charted as 
having right heart failure but only has mild RV dilation on TTE. 
Right heart
cath suggests both pre-capillary and post-capillary components. 
Has COPD, chronic thromboembolic disease, possible 
hepatopulmonary syndrome given positive late bubbles.
- Continued home Sildenafil 40mg TID
- Continued home Macitentan (opsumit) 10mg daily

#Chronic left main PA thrombus
On warfarin. INR supratherapeutic to 5.0 on presentation. 
Downtrended throughout admission. Warfarin held for paracentesis 
on ___. Restarted on ___.

#EtOH and HCV cirrhosis
Previously decompensated by ascites, HE, esophageal varices. On 
furosemide/spironolactone at home. LFTs not recently elevated. 
No evidence of hemorrhage, hepatic encephalopathy. Abdomen 
became more distended during stay and ___ performed paracentesis 
with only removal of 20 mL as the pocket was not large enough.
- Continued home epclusa 
- Continued home rifaximin 

#Thrombocytopenia
Likely secondary to cirrhosis. 
- Stable on daily CBC
- Warfarin as above

#H/o opiate use disorder 
No record of opiate prescriptions in MassPMP. Methadone 50mg 
from ___. Confirmed dose with ___. 
- Continued home methadone 50mg daily 

#Smoking
- Nicotine patch while in house 
- Tried to discuss resources to quit but patient did not want to 
discuss

TRANSITIONAL ISSUES:
- follow up creatinine at discharge
- adjust torsemide dose based on weight/volume status
- needs follow up with pulmonary hypertension clinic

>30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sildenafil 20 mg PO TID 
2. Epclusa (sofosbuvir-velpatasvir) 400-100 mg oral DAILY 
3. Opsumit (macitentan) 10 mg oral DAILY 
4. Pantoprazole 40 mg PO Q24H 
5. Rifaximin 550 mg PO BID 
6. Spironolactone 25 mg PO DAILY 
7. Anoro Ellipta (umeclidinium-vilanterol) 62.5-25 mcg/actuation 
inhalation DAILY 
8. Warfarin 2 mg PO DAILY16 
9. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 
10. Atorvastatin 20 mg PO QPM 
11. Torsemide 20 mg PO DAILY 
12. Methadone 50 mg PO DAILY 

 
Discharge Medications:
1.  GuaiFENesin ER 600 mg PO Q12H 
RX *guaifenesin 600 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
2.  Lactulose 15 mL PO BID 
RX *lactulose 10 gram/15 mL (15 mL) 15 mL by mouth twice a day 
Disp #*1 Bottle Refills:*0 
3.  Naloxone Nasal Spray 4 mg IH ONCE for accidental opioid 
overdose Duration: 1 Dose 
RX *naloxone [Narcan] 4 mg/actuation 1 spray intranasal once 
Disp #*1 Spray Refills:*0 
4.  Torsemide 20 mg PO BID 
RX *torsemide 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
5.  Anoro Ellipta (umeclidinium-vilanterol) 62.5-25 
mcg/actuation inhalation DAILY  
6.  Atorvastatin 20 mg PO QPM  
7.  Epclusa (sofosbuvir-velpatasvir) 400-100 mg oral DAILY  
8.  Methadone 50 mg PO DAILY  
9.  Opsumit (macitentan) 10 mg oral DAILY  
10.  Pantoprazole 40 mg PO Q24H  
11.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  
12.  Rifaximin 550 mg PO BID  
13.  Sildenafil 20 mg PO TID  
14.  Spironolactone 25 mg PO DAILY  
15.  Warfarin 2 mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute hypoxemic hypercarbic respiratory failure
COPD exacerbation
Acute kidney injury on chronic kidney disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
-  You were admitted for shortness of breath and low oxygen 
levels.

What did you receive in the hospital?  
-  You were placed on BiPAP mask to help you breathe. You were 
given prednisone and antibiotics. Your torsemide was increased.

What should you do once you leave the hospital?  
-  You should continue to take your medications.
- You should discuss quitting smoking with your doctors.
- You should follow up with your pulmonary hypertension doctor.

We wish you the best!  
Your ___ Care Team
 
Followup Instructions:
___